US08729263B2
To a solution of (S)-6-((S)-1-hydroxyethyl)-1-(4-methoxybenzyl)-2,2-dimethylpiperidin-4-one (0.28 g, 0.96 mmol) in MeOH (40 mL) was added acetic acid (0.055 mL, 0.96 mmol) and palladium hydroxide (0.13 g, 0.96 mmol). After degassing, the mixture was stirred overnight under hydrogen. The mixture was filtered through the celite, washed with MeOH (20 mL), and concentrated in vacuo to give 0.11 g (67%) of (S)-6-((S)-1-hydroxyethyl)-2,2-dimethylpiperidin-4-one which was used in the next step without purification.

reactant | (S)-6-((S)-1-hydroxyethyl)-1-(4-methoxybenzyl)-2,2-dimethylpiperidin-4-one | 0.96 mmol, 0.28 g | O[C@@H](C)[C@@H]1CC(CC(N1CC1=CC=C(C=C1)OC)(C)C)=O | C17H25NO3
reactant | acetic acid | 0.96 mmol, 0.055 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 40 mL | CO | CH4O
catalyst | palladium hydroxide | 0.96 mmol, 0.13 g | [OH-].[Pd+2].[OH-]
product | (S)-6-((S)-1-hydroxyethyl)-2,2-dimethylpiperidin-4-one | 0.11 g, 67% | O[C@@H](C)[C@@H]1CC(CC(N1)(C)C)=O | C9H17NO2
